US07491716B2
[5-(tetrahydropyran-2-yloxy)benzofur-7-yl]acetonitrile
Combine 5-(tetrahydropyran-2-yloxy)benzofuran-7-carboxaldehyde (3.75 g, 0.015 mol) with lithium cyanide-tetrahydrofuran (1:1.5 complex, 0.215 g, 0.1 equivalent) in tetrahydrofuran (80 mL) under nitrogen. Add diethyl cyanophosphonate (3.0 mL, 1.3 equivalents) and stir at 20° C. for 2 days. Add tert-butanol (1.6 mL, 1.1 equivalents) then SmI2 in tetrahydrofuran (0.1 M solution, approximately 400 mL). Concentrate the solution in vacuo then redissolve in a solution of ethyl acetate:diethyl ether (approximately 3:1, 100 mL). Add saturated aqueous ammonium chloride and stir for 20 min, until the release of hydrogen cyanide is complete. Filter to remove insoluble material, then extract against 1 N hydrochloric acid. Dry over sodium sulfate, then filter and concentrate. Purification by a plug column (4:1 hexanes:ethyl acetate) to provide the tide compound as a light yellow oil.

reactant | 5-(tetrahydropyran-2-yloxy)benzofuran-7-carboxaldehyde | 0.015 mol, 3.75 g | O1C(CCCC1)OC=1C=C(C2=C(C=CO2)C1)C=O | C14H14O4
reactant | lithium cyanide tetrahydrofuran | 0.215 g, 0.1 equivalent | [C-]#N.[Li+].O1CCCC1
reactant | diethyl cyanophosphonate | 3.0 mL, 1.3 equivalents | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | tert-butanol | 1.6 mL, 1.1 equivalents | C(C)(C)(C)O | C4H10O
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.1 M, approximately 400 mL | O1CCCC1 | C4H8O
product | [5-(tetrahydropyran-2-yloxy)benzofur-7-yl]acetonitrile | O1C(CCCC1)OC=1C=C(C2=C(C=CO2)C1)CC#N | C15H15NO3
